US08455646B2
Preparation of 4-methyl-phenyl-amino-phenyl-acetic acid (I244)
To a solution of α-bromophenylacetic acid (1.00 g, 4.65 mmol) in acetonitrile (20 mL), is added 4-methyl-phenylamine (0.96 g, 9.30 mmol) and the mixture reacted in a closed vessel under MW irradiation at 100° C. for 1 hour (UPLC-MS monitoring: complete conversion). Solvent is evaporated and residue is portioned between EtOAc and 2N HCl. The organic phase is dried over Na2SO4, filtered and evaporated to dryness to get desired compound as a yellow solid (0.88 g, 78% yield).

reactant | α-bromophenylacetic acid | 4.65 mmol, 1.00 g | BrC(C(=O)O)C1=CC=CC=C1 | C8H7BrO2
reactant | 4-methyl-phenylamine | 9.30 mmol, 0.96 g | CC1=CC=C(C=C1)N | C7H9N
reactant | acetonitrile | 20 mL | C(C)#N | C2H3N
product | 4-methyl-phenyl-amino-phenyl-acetic acid | 0.88 g, 78% yield | CC1=CC=C(C=C1)C(C(=O)O)(C1=CC=CC=C1)N | C15H15NO2
